US08377968B2
A. Synthesis of tert-butyl (1-(cyanomethyl)piperidin-4-yl)methylcarbamate
tert-Butyl piperidin-4-ylmethylcarbamate (5 g, 23.2 mmol) was dissolved in CH3CN (40 mL). Potassium carbonate (3.5 g, 25 mmol), DIPEA (4.4 mL, 25 mmol) and bromoacetonitrile (2.77 g, 23.2 mmol) were added, and the mixture was stirred at room temperature overnight. The solution was then concentrated and saturated NaHCO3 (40 mL) was added. The mixture was extracted with CH2Cl2 (4×30 mL). The extract was dried over anhydrous Na2SO4. The dried extract was passed through a silica gel plug, and the desired compound was eluted off with EtOAc. The product was further purified by crystallization from EtOAc/petroleum ether as a white solid (5.4 g, 92%).

reactant | tert-Butyl piperidin-4-ylmethylcarbamate | 23.2 mmol, 5 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | Potassium carbonate | 25 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | DIPEA | 25 mmol, 4.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bromoacetonitrile | 23.2 mmol, 2.77 g | BrCC#N | C2H2BrN
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | tert-butyl (1-(cyanomethyl)piperidin-4-yl)methylcarbamate | C(#N)CN1CCC(CC1)CNC(OC(C)(C)C)=O | C13H23N3O2
